US05324725
21 g of 3-(4-methoxybenzoyl)propionic acid were heated under reflux for 51/4 hours in 350 ml of ethanol after addition of 7.3 ml of concentrated sulfuric acid The reaction mixture was worked up by concentrating it, taking up the remaining residue in 100 ml of water and extracting the mixture with dichloromethane. The organic phase was separated, washed with 50 ml of saturated aqueous sodium bicarbonate solution, then washed with water until neutral, dried and concentrated. 23.3 g of crude ethyl 3-(4-methoxybenzoyl)-propionate were obtained as a yellowish, crystallizing oil.

reactant | 3-(4-methoxybenzoyl)propionic acid | 21 g | COC1=CC=C(C(=O)CCC(=O)O)C=C1 | C11H12O4
reactant | sulfuric acid | 7.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 350 ml | C(C)O | C2H6O
product | ethyl 3-(4-methoxybenzoyl)-propionate | 23.3 g | COC1=CC=C(C(=O)CCC(=O)OCC)C=C1 | C13H16O4
